US07153863B2
To a cold (0° C.) solution of 2-fluoro-4-iodopyridine (1.0 g, 4.5 mmol) in tetrahydrofuran (15 mL) was added copper (I) iodide (86 mg, 0.45 mmol), dichlorobistriphenylphosphine palladium (II) (157 mg, 0.22 mmol), and triethylamine (1.8 mL, 13.4 mmol). Pentyne (0.88 mL, 8.9 mmol) was added dropwise to the reaction mixture and the resultant solution was stirred at 0° C. for 30 minutes and then at room temperature for 18 hours. Water and ether were added and the layers separated. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed flash chromatography on silica gel (5:1 hexane-ether) provided 2-fluoro-4-pent-1-ynylpyridine (670 mg, 92%) as a clear oil. 1H NMR (CDCl3) δ 8.11 (d, 1H), 7.11 (d, 1H), 6.88 (s, 1H), 2.41 (t, 2H), 1.63 (m, 2H), 1.04 (t,3H),; 19F NMR (CDCl3) δ −68.68; MS m/z 164 (M+1).

reactant | 2-fluoro-4-iodopyridine | 4.5 mmol, 1.0 g | FC1=NC=CC(=C1)I | C5H3FIN
reactant | triethylamine | 13.4 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | Pentyne | 8.9 mmol, 0.88 mL | C#CCCC | C5H8
reactant | Water | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 0.45 mmol, 86 mg | [Cu]I
solvent | ether | CCOCC | C4H10O
product | 2-fluoro-4-pent-1-ynylpyridine | 670 mg, 92% | FC1=NC=CC(=C1)C#CCCC | C10H10FN
